### PR TITLE
[Merged by Bors] - refactor(NumberTheory): golf `Mathlib/NumberTheory/NumberField/Norm`

### PR DESCRIPTION
**Pull request by yuanyi-350**
- refactors `NumberField/Norm` by moving `isUnit_norm_of_isGalois` after `dvd_norm` and shortening its proof to a direct application of `dvd_norm` together with `isUnit_of_dvd_unit`

Extracted from #38144

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by yuanyi-350** [comment]
I ran a profiler comparison for the changed declarations in this PR.

Results (seconds):
- `RingOfIntegers.isUnit_norm_of_isGalois`: `0.181801 -> 0.023740` (`-86.9%`)

Overall:
- The changed proof elaborates substantially faster.

**Comment by riccardobrasca** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/f6e498912b2f9d2c28e9434d981028370402fd75?reference=4fceb4697e54f6bbea184bf4ecfc0296a1110f3e) for f6e498912b2f9d2c28e9434d981028370402fd75 against 4fceb4697e54f6bbea184bf4ecfc0296a1110f3e are in. No significant results found. @riccardobrasca

- ✅ `build//instructions`: **-14.1G** (**-0.01%**)

**Small changes (1✅)**

- ✅ `build/module/Mathlib.NumberTheory.NumberField.Norm//instructions`: **-1.1G** (**-6.95%**)

File: Mathlib/NumberTheory/NumberField/Norm.lean [hunk 1]
```diff
@@ -97,6 +82,11 @@ theorem dvd_norm [FiniteDimensional K L] [IsGalois K L] (x : 𝓞 L) :
   rw [coe_algebraMap_norm K x, norm_eq_prod_automorphisms]
   simp [← Finset.mul_prod_erase _ _ (mem_univ AlgEquiv.refl)]
 
+theorem isUnit_norm_of_isGalois [FiniteDimensional K L] [IsGalois K L] {x : 𝓞 L} :
+    IsUnit (norm K x) ↔ IsUnit x := by
+  refine ⟨fun hx => ?_, IsUnit.map _⟩
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Norm.lean]:
```suggestion
  refine ⟨fun hx ↦ ?_, IsUnit.map _⟩
```

File: Mathlib/NumberTheory/NumberField/Norm.lean [hunk 2]
```diff
@@ -97,6 +82,11 @@ theorem dvd_norm [FiniteDimensional K L] [IsGalois K L] (x : 𝓞 L) :
   rw [coe_algebraMap_norm K x, norm_eq_prod_automorphisms]
   simp [← Finset.mul_prod_erase _ _ (mem_univ AlgEquiv.refl)]
 
+theorem isUnit_norm_of_isGalois [FiniteDimensional K L] [IsGalois K L] {x : 𝓞 L} :
+    IsUnit (norm K x) ↔ IsUnit x := by
+  refine ⟨fun hx ↦ ?_, IsUnit.map _⟩
+  exact isUnit_of_dvd_unit (dvd_norm K x) (hx.map (algebraMap (𝓞 K) (𝓞 L)))
```
Comment (acmepjz) [inline Mathlib/NumberTheory/NumberField/Norm.lean]: Maybe you want a more aggressive golf by omitting `algebraMap`:

```suggestion
    IsUnit (norm K x) ↔ IsUnit x :=
  ⟨fun hx ↦ isUnit_of_dvd_unit (dvd_norm K x) (hx.map _), IsUnit.map _⟩
```

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
